US07696223B2
a) {[2-(6-Butoxy-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid methyl ester
2-(6-Chloro-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester, example 92(c)(0.15 g, 0.45 mmol) was added to a solution of sodium 1-butoxide in 1-butanol (prepared by dissolving sodium (45.2 mg, 1.96 mmol) in 10 mL of anhydrous 1-butanol) at ambient temperature. After the reaction mixture was refluxed overnight, the solvent was evaporated off. The resulting residue was added to a suspension of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (94.3 mg, 0.49 mmol), glycine methyl ester hydrochloride (61.8 mg, 0.49 mmol), hydrochloric acid (10 N, 98.3 μL, 0.983 mmol), and 4-dimethylaminopyridine (5.46 mg, 0.045 mmol) in N,N-dimethylformamide at ambient temperature. The reaction mixture was stirred at ambient temperature overnight before 60 mL of chloroform was added. The organic solution was washed with saturated ammonium chloride solution, brine, saturated sodium bicarbonate solution, and brine, dried, filtered, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-100% ethyl acetate in hexanes to produce 10.6 mg of a white solid. MS: (+) m/z 417.3 (M+1).

reactant | 2-(6-Chloro-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC(=CC2)Cl)O | C14H10ClN3O3S
reactant | sodium 1-butoxide | CCCC[O-].[Na+]
reactant | 1-butanol | 1.96 mmol, 10 mL, 45.2 mg | C(CCC)O | C4H10O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.49 mmol, 94.3 mg | Cl.CN(CCCN=C=NCC)C
reactant | glycine methyl ester hydrochloride | 0.49 mmol, 61.8 mg | Cl.COC(CN)=O
reactant | hydrochloric acid | 0.983 mmol, 10 N, 98.3 μL | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.045 mmol, 5.46 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | {[2-(6-Butoxy-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid methyl ester | 10.6 mg | COC(CNC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC(=CC2)OCCCC)O)=O | C19H20N4O5S
